US07160886B2
Preparation of 2-(4-{[(3R,4R)-1-tert-butyl-3-(2,4-difluorophenyl)piperidin-4-yl]carbonyl}piperazin-1-yl)-2-cyclohexyl-N,N-diethylethanamine
To a solution of (3S,4R)-1-tert-butyl-3-(2,4-difluorophenyl)-piperidine-4-carboxylic acid A-4 (30 mg, 0.101 mmol) in dichloromethane (5 mL) was added 4-methylmorpholine (0.017 ml, 0.151 mmol), HOBt (15 mg, 0.111 mmol), EDC (29 mg, 0.1514 mmol), and piperazine K-2 (30.6 mg, 0.101 mmol). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated, purified by preparative TLC (10:1, CHCl3:2N NH3 in MeOH) to give a yellow oil, to which was added HCl (1.0 M in ether) and the resulting mixture was concentrated to give the title compound as a mixture of two diastereomers, D1 and D2. ESI-MS calc. for C32H52F2N4O: 546. Found: 547 (M+H). D1: NMR (500 MHz, CD3OD) 7.40–7.27 (m, 1H), 6.94–6.82 (m, 2H), 3.68–3.40 (m, 5H), 3.395–3.00 (m, 5H), 2.80–2.20 (m, 11H), 1.94–1.60 (m, 6H), 1.50–0.84 (m, 20H). D2: NMR (500 MHz, CD3OD) 7.40–7.27 (m, 1H), 6.94–6.82 (m, 2H), 3.68–3.00 (m, 10H), 2.80–2.2 (m, 11H), 2.00–1.60 (m, 6H), 1.40–0.80 (m, 20H).

reactant | (3S,4R)-1-tert-butyl-3-(2,4-difluorophenyl)-piperidine-4-carboxylic acid | C(C)(C)(C)N1C[C@@H]([C@@H](CC1)C(=O)O)C1=C(C=C(C=C1)F)F | C16H21F2NO2
reactant | 4-methylmorpholine | 0.151 mmol, 0.017 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 0.111 mmol, 15 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.1514 mmol, 29 mg
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | HCl | 1.0 M | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(4-{[(3R,4R)-1-tert-butyl-3-(2,4-difluorophenyl)piperidin-4-yl]carbonyl}piperazin-1-yl)-2-cyclohexyl-N,N-diethylethanamine | C(C)(C)(C)N1C[C@H]([C@@H](CC1)C(=O)N1CCN(CC1)C(CN(CC)CC)C1CCCCC1)C1=C(C=C(C=C1)F)F | C32H52F2N4O
